US04618677
The procedure described in Example 1(b) was followed, using 19.0 g of thiourea, 44.0 g of 1-(3-phenylpropyl)-4-(3-chloropropyl)piperazine dihydrochloride, 25 g of triethylamine and 250 ml of reagent ethanol. The hydrolysis was effected with 10.0 g of sodium hydroxide in 50 ml of water. Work-up, as described above, gave 35.8 g (82% of theory) of 3-[4-(3-phenylpropyl)piperazin-1-yl]propanethiol dihydrochloride as a white crystalline solid, M.p. 237°-239° C.

reactant | thiourea | 19.0 g | NC(=S)N | CH4N2S
reactant | 1-(3-phenylpropyl)-4-(3-chloropropyl)piperazine dihydrochloride | 44.0 g | Cl.Cl.C1(=CC=CC=C1)CCCN1CCN(CC1)CCCCl
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(3-phenylpropyl)piperazin-1-yl]propanethiol dihydrochloride | 35.8 g, 82% | Cl.Cl.C1(=CC=CC=C1)CCCN1CCN(CC1)CCCS | InChI=1S/C16H26N2S.2ClH/c19-15-5-10-18-13-11-17(12-14-18)9-4-8-16-6-2-1-3-7-16;;/h1-3,6-7,19H,4-5,8-15H2;2*1H
